US05288726
24(a) 5-Acetyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine
35.1 g (200 mmole) of 4,5,6,7-tetrahydrothieno[3,2-c]pyridine hydrochloride and 38.57 g (200 mmole) of 28% w/v sodium methoxide in methanol were added to 200 ml of ethanol, and the resulting mixture was stirred at room temperature for 1 hour. The inorganic salt thus precipitated was filtered off, and the filtrate was concentrated to dryness by evaporation under reduced pressure. 50 ml of acetic anhydride were added all at once, whilst stirring, to the residue, and the resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was then concentrated to dryness by evaporation under reduced pressure, and the residue thus obtained was subjected to silica gel column chromatography, using a 6:4 by volume mixture of toluene and ethyl acetate as the eluent, to give 29.32 g of the title compound as a yellow oil.

reactant | 4,5,6,7-tetrahydrothieno[3,2-c]pyridine hydrochloride | 200 mmole, 35.1 g | Cl.S1C=CC=2CNCCC21
reactant | sodium methoxide | C[O-].[Na+]
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Acetyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 29.32 g | C(C)(=O)N1CC2=C(CC1)SC=C2 | C9H11NOS
